US08084448B2
D. 4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile
To a suspension of PS-isocyanate resin (100 mg) in THF is added TBAF (1M in THF, 0.5 mL) and the mixture is stirred at RT for 2 h. The resin is filtered off and the TBAF solution is added to a solution of 4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-3,3-dimethylbutyronitrile (25 mg, 0.047 mmol) in THF (5 mL). The mixture is stirred at RT for 18 h then is diluted with 1N HCl and extracted with EtOAc. The organic layer is washed with brine, dried over Na2SO4 and concentrated to give the title compound which is used directly in the next step.

reactant | isocyanate | 100 mg | [N-]=C=O
reactant | TBAF | 1M, 0.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-3,3-dimethylbutyronitrile | 0.047 mmol, 25 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CC(CC#N)(C)C | C26H35N3O4SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
product | 4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CC(CC#N)(C)C | C21H23N3O4S
